US08350044B2
Preparation of (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester (Compound 304)
To a suspension of 3-pyridine boronic acid (1.5 g, 12.2 mmol) in toluene (50 mL) was added absolute ethanol (25 mL) followed by a 2.0 M solution of K2CO3 (12.5 mL). To this mixture was added (2-bromo-4-chloro-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester (4.2 g, 12.2 mmol) followed by tetrakis(triphenylphosphine)palladium(0) (708 mg, 0.61 mmol). The reaction mixture was heated to 100° C. for 16 h. The mixture was cooled and diluted with ethyl acetate. The organic layer was washed with saturated aqueous NaHCO3, dried over Na2SO4, filtered and concentrated. The organic layer was purified by silica gel chromatography (0 to 100% ethyl acetate/hexanes) to afford a red oil (3.3 g, 79%): 1H NMR (300 MHz, CDCl3) δ 9.09 (d, J=1.9 Hz, 1H), 8.68 (dd, J=4.8, 1.6 Hz, 1H), 8.19 (dd, J=5.9, 4.2 Hz, 1H), 7.39 (dd, J=7.6, 5.2 Hz, 1H), 3.68 (q, J=7.2 Hz, 2H), 1.45 (s, 9H), 1.22 (t, J=7.0 Hz, 3H); ESIMS m/z 340 (M+1).

reactant | 3-pyridine boronic acid | 12.2 mmol, 1.5 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | K2CO3 | 12.5 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromo-4-chloro-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester | 12.2 mmol, 4.2 g | C(C)(C)(C)OC(N(CC)C1=C(N=C(S1)Br)Cl)=O | C10H14BrClN2O2S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.61 mmol, 708 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-chloro-2-pyridin-3-yl-thiazol-5-yl)-ethyl-carbamic acid tert-butyl ester | 3.3 g, 79% | C(C)(C)(C)OC(N(CC)C1=C(N=C(S1)C=1C=NC=CC1)Cl)=O | C15H18ClN3O2S
